**********
*
*    Copyright 1993 F.W. BELL, INC.
*
*    The information on this diskette is protected under the
*    United States copyright laws.  F.W. BELL, INC.
*    ("Licensor") hereby grants to the user hereof
*    ("Licensee"), a non-exclusive, non-transferable license
*    to use the diskette and the models contained on this
*    diskette (collectively referred to as "Software") as long
*    as the Licensee abides by the terms of this agreement as
*    set forth in the following paragraphs.  Before using the
*    Software the Licensee should read the terms of this
*    license.  If Licensee does not accept these terms, this
*    diskette should be returned to Licensor within 10 days.
*
*    The Licensee shall not sell, transfer, publish, disclose,
*    load, lease, license, display or otherwise make available
*    the Software or copies thereof, in whole, in part, or in
*    modified form, to anyone in the Licensee's company other
*    than those who need to know nor to anyone outside the
*    Licensee's company.  The license granted herein includes
*    the right to copy the Software in non-printed machine
*    readable form in whole or in part as necessary for use
*    within Licensee's own business only.  The Licensee may
*    modify this Software to suit its specific application
*    needs in order to utilize this Software.
*
*    This Software is provided "AS IS AND WHERE IS, AND
*    LICENSOR MAKES AND LICENSEE RECEIVES NO WARRANTY EXPRESS
*    OR IMPLIED INCLUDING BUT NOR LIMITED TO ALL WARRANTIES OF
*    MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE. 
*    LICENSOR SHALL HAVE NO LIABILITY WITH RESPECT TO ITS
*    OBLIGATIONS UNDER THIS AGREEMENT FOR CONSEQUENTIAL,
*    COLLATERAL, EXEMPLARY, OR INCIDENTAL DAMAGES EVEN IF IT
*    HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES." 
*    Licensor reserves the right to make changes to the
*    Software and the underlying products without prior
*    notice.
**********
*SRC=BH200;BH200;Sensors;Hall Effect;Transverse, 15mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT BH200 2 100 17 4 31 101
*
*
FUO 100 41 VIST 1.E-3
RGUO 41 100 1 RMOD1 
.MODEL RMOD1 R (TC1 = 1.E-2)
*
EUO 9 5 41 100 1
*
E1 3 11 50 100 0.05
E2 13 4 50 100 0.05
*
VIST 2 7 0
VOM 15 3 0
*
FNON 100 190 POLY(1) VIB 0 6.38E-5 0 7.465E-8
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
EMAGC 37 100 31 1 1.E3
CMAG  37 38 1.E-11
RMAG  38 100 4.695
*
EXX1 301 100 POLY(2) 71 100 190 100 0 0 0 0 10.0
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
HRI1 73 100 POLY(1) VIB -0.33862 0.108319
MI1 73 63 70 70 TYPE1
HGI1 63 70 VIB 1
.MODEL TYPE1 NMOS VTO=3.126
*
HRI2 74 100 POLY(1) VIB -0.34121 -0.10838
MI2 74 64 70 70 TYPE2
HGI2 64 70 VIB -1
.MODEL TYPE2 NMOS VTO=3.148
*
RMAGI 70 100 1 RMOD 
* 
HIST 71 100 VIST 1
RIST 71 100 1
*
EV1 7 6 POLY(2) 71 100 70 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  70 100 0 0 0 0 -0.5
*
HRO1 93 100 POLY(1) VIB -0.24846 0.109796
MO1 93 95 80 80 TYPE3
HGO1 95 80 VIB 1
.MODEL TYPE3 NMOS VTO=2.2629
*
HRO2 94 100 POLY(1) VIB -0.24709 -0.10988
MO2 94 96 80 80 TYPE4
HGO2 96 80 VIB -1
.MODEL TYPE4 NMOS VTO=2.2487
*
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1= 1.5E-3)
*
HVOM 81 100 VOM 1
ROM 81 100 1
*
EV3 11 10 POLY(2) 81 100 80 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 80 100 0 0 0 0 -0.5
*
R1 6 5 1 RMOD 
R2 5 8 1 RMOD 
R3 10 9 0.85 RMOD 
R4 5 12 0.85 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST 50 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
.ENDS
**********
*SRC=BH203;BH203;Sensors;Hall Effect;Axial, 10mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT BH203 2 100 17 4 31 101
*
FUO 100 41 VIST 1.E-3
RGUO 41 100 1 RMOD1 
.MODEL RMOD1 R (TC1 = 1.E-2)
*
EUO 9 5 41 100 1
*
E1 3 11 50 100 0.05
E2 13 4 50 100 0.05
*
VIST 2 7 0
VOM 15 3 0
*
FNON 100 190 POLY(1) VIB 0 1.22E-4 0 1.396E-7
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
EMAGC 37 100 31 1 1.E3
CMAG  37 38 1.E-11
RMAG  38 100 7.958
*
EXX1 301 100 POLY(2) 71 100 190 100 0 0 0 0 10.0
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
HRI1 73 100 POLY(1) VIB -0.28125 0.12257
MI1 73 63 70 70 TYPE1
HGI1 63 70 VIB 1
.MODEL TYPE1 NMOS VTO=2.2946
*
HRI2 74 100 POLY(1) VIB -0.28125 -0.12257
MI2 74 64 70 70 TYPE2
HGI2 64 70 VIB -1
.MODEL TYPE2 NMOS VTO=2.2946
*
RMAGI 70 100 1 RMOD 
* 
HIST 71 100 VIST 1
RIST 71 100 1
*
EV1 7 6 POLY(2) 71 100 70 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  70 100 0 0 0 0 -0.5
*
HRO1 93 100 POLY(1) VIB -0.30275 0.1173
MO1 93 95 80 80 TYPE3
HGO1 95 80 VIB 1
.MODEL TYPE3 NMOS VTO=2.58
*
HRO2 94 100 POLY(1) VIB -0.30275 -0.1173
MO2 94 96 80 80 TYPE4
HGO2 96 80 VIB -1
.MODEL TYPE4 NMOS VTO=2.58
*
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1= 1.5E-3)
*
HVOM 81 100 VOM 1
ROM 81 100 1
*
EV3 11 10 POLY(2) 81 100 80 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 80 100 0 0 0 0 -0.5
*
R1 6 5 0.95 RMOD 
R2 5 8 0.95 RMOD 
R3 10 9 0.95 RMOD 
R4 5 12 0.95 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST 50 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
.ENDS
**********
*SRC=BH208;BH208;Sensors;Hall Effect;Ultra-Thin Axial, 10mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT BH208 2 100 17 4 31 101
*
FUO 100 41 VIST 2.5E-3
RGUO 41 100 1 RMOD1 
.MODEL RMOD1 R (TC1 = 4.E-3)
*
EUO 9 5 41 100 1
*
E1 3 11 50 100 0.05
E2 13 4 50 100 0.05
*
VIST 2 7 0
VOM 15 3 0
*
FNON 100 190 POLY(1) VIB 0 2.204E-4 0 4.478E-8
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
EMAGC 37 100 31 1 1.E3
CMAG  37 38 1.E-11
RMAG  38 100 4.377
*
EXX1 301 100 POLY(2) 71 100 190 100 0 0 0 0 10.0
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
HRI1 73 100 POLY(1) VIB -0.444 0.1306
MI1 73 63 70 70 TYPE1
HGI1 63 70 VIB 1
.MODEL TYPE1 NMOS VTO=3.398
*
HRI2 74 100 POLY(1) VIB -0.444 -0.1306
MI2 74 64 70 70 TYPE2
HGI2 64 70 VIB -1
.MODEL TYPE2 NMOS VTO=3.398
*
RMAGI 70 100 1 RMOD 
* 
HIST 71 100 VIST 1
RIST 71 100 1
*
EV1 7 6 POLY(2) 71 100 70 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  70 100 0 0 0 0 -0.5
*
HRO1 93 100 POLY(1) VIB -0.444 0.1205
MO1 93 95 80 80 TYPE3
HGO1 95 80 VIB 1
.MODEL TYPE3 NMOS VTO=3.683
*
HRO2 94 100 POLY(1) VIB -0.444 -0.1205
MO2 94 96 80 80 TYPE4
HGO2 96 80 VIB -1
.MODEL TYPE4 NMOS VTO=3.683
*
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1= 1.5E-3)
*
HVOM 81 100 VOM 1
ROM 81 100 1
*
EV3 11 10 POLY(2) 81 100 80 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 80 100 0 0 0 0 -0.5
*
R1 6 5 1.5 RMOD 
R2 5 8 1.5 RMOD 
R3 10 9 1.5 RMOD 
R4 5 12 1.5 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST 50 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
.ENDS
**********
*SRC=BH700;BH700;Sensors;Hall Effect;Transverse, 50mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT BH700 2 100 17 4 31 101
*
FUO 100 41 VIST 0.0075
RGUO 100 41 1 RMOD1 
.MODEL RMOD1 R (TC1 = 8.e-4)
EUO 9 5 41 100 1
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST  100 50 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.002)
*
E1 3 11 50 100 0.1625
E2 13 4 50 100 0.1625
*
VIST 2 7 0
VOM 15 3 0
*
ENON1 203 100 POLY(1) 31 101 0 4.424E-4 0 -7.501E-7
RNON1 203 100 1
*
FB 100 210 VIB 0.1
RB1 210 100 100K
Q1 212 210 211 QMOD
.MODEL QMOD NPN
RQ1 212 213 10K
VCQ1 213 100 1.0
VEQ1 211 100 -1.0
*
GNON 100 190 POLY(2) 203 100 212 100 0 0 0 0 -1
*
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.002)
*
EMAGC 37 100 31 1 1.E3
CMAG 37 38 1.E-11
RMAG 38 100 31.83
*
EXX1 301 100 POLY(2) 71 100 190 100 0 -0.0075 0 0 5
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
FRI 100 70 POLY(1) VIB 0 0.377
RMAGI 100 70 1 RMOD 
HIST 71 100 VIST 1
RIST 71 100 1
*
EFRI 370 100 POLY(2) 70 100 212 100 0 0 0 0 1
RFI 370 100 1
*
EV1 7 6 POLY(2) 71 100 370 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  370 100 0 0 0 0 -0.5
*
FRO 100 80 POLY(1) VIB 0 0.349
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1 = 0.002)
HVOM 81 100 VOM 1
ROM 81 100 1
*
EFRO 380 100 POLY(2) 80 100 212 100 0 0 0 0 1
RFO 380 100 1
*
EV3 11 10 POLY(2) 81 100 380 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 380 100 0 0 0 0 -0.5
*
R1 6 5 1.75 RMOD 
R2 5 8 1.75 RMOD 
R3 10 9 1.75 RMOD 
R4 5 12 1.75 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
.ENDS
**********
*SRC=BH705;BH705;Sensors;Hall Effect;Transverse, 10mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT BH705 2 100 17 4 31 101
*
FUO 100 41 VIST 0.003
RGUO 100 41 1 RMOD1 
.MODEL RMOD1 R (TC1 = 3.3333E-4)
EUO 9 5 41 100 1
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST  100 50 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
E1 3 11 50 100 0.05
E2 13 4 50 100 0.05
*
VIST 2 7 0
VOM 15 3 0
*
ENON1 203 100 POLY(1) 31 101 0 9.59E-5 0 8.255E-8
RNON1 203 100 1
*
FB 100 210 VIB 0.1
RB1 210 100 100K
Q1 212 210 211 QMOD
.MODEL QMOD NPN
RQ1 212 213 10K
VCQ1 213 100 1.0
VEQ1 211 100 -1.0
*
GNON 100 190 POLY(2) 203 100 212 100 0 0 0 0 -1
*
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -8.E-4)
*
EMAGC 37 100 31 1 1.E3
CMAG 37 38 1.E-11
RMAG 38 100 13.528
*
EXX1 301 100 POLY(2) 71 100 190 100 0 -0.003 0 0 10
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
FRI 100 70 POLY(1) VIB 0 0.076
RMAGI 100 70 1 RMOD 
HIST 71 100 VIST 1
RIST 71 100 1
*
EFRI 370 100 POLY(2) 70 100 212 100 0 0 0 0 1
RFI 370 100 1
*
EV1 7 6 POLY(2) 71 100 370 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  370 100 0 0 0 0 -0.5
*
FRO 100 80 POLY(1) VIB 0 8.38E-2
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1 = 0.002)
HVOM 81 100 VOM 1
ROM 81 100 1
*
EFRO 380 100 POLY(2) 80 100 212 100 0 0 0 0 1
RFO 380 100 1
*
EV3 11 10 POLY(2) 81 100 380 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 380 100 0 0 0 0 -0.5
*
R1 6 5 0.9 RMOD 
R2 5 8 0.9 RMOD 
R3 10 9 0.9 RMOD 
R4 5 12 0.9 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
.ENDS
**********
*SRC=BHA910;BHA910;Sensors;Hall Effect;High Linearity, 0.8mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:       +Ic HALL CONTROL(BIAS) CURRENT INPUT
*              |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*              |   |  +Vh HALL OUTPUT 
*              |   |  | -Vh HALL OUTPUT
*              |   |  | |  +B MAGNETIC FIELD INPUT
*              |   |  | |  |   -B MAGNETIC FIELD INPUT
*              |   |  | |  |   |
.SUBCKT BHA910 2 100 17 4 31 101
*
FUO 100 41 VIST 5.E-4
RGUO 100 41 1 RMOD1 
.MODEL RMOD1 R (TC1 = 8.E-4)
EUO 9 5 41 100 1
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST  100 50 1 RMOD2 
.MODEL RMOD2 R (TC1 = -4.807E-3)
*
E1 3 11 50 100 4.E-3
E2 13 4 50 100 4.E-3
*
VIST 2 7 0
VOM 15 3 0
*
ENON1 203 100 POLY(1) 31 101 0 0 0 0 0 4.132E-13
RNON1 203 100 1
*
FB 100 210 VIB 0.1
RB1 210 100 100K
Q1 212 210 211 QMOD
.MODEL QMOD NPN
RQ1 212 213 10K
VCQ1 213 100 1.0
VEQ1 211 100 -1.0
*
GNON 100 190 POLY(2) 203 100 212 100 0 0 0 0 -1
*
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -4.807E-3)
*
EMAGC 37 100 31 1 1.E3
CMAG 37 38 1.E-11
RMAG 38 100 0.8753
*
EXX1 301 100 POLY(2) 71 100 203 100 0 -5.E-4 0 0 10
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
FRI 100 70 POLY(1) VIB 0 6.66E-3
RMAGI 100 70 1 RMOD 
HIST 71 100 VIST 1
RIST 71 100 1
*
EFRI 370 100 POLY(2) 70 100 212 100 0 0 0 0 1
RFI 370 100 1
*
EV1 7 6 POLY(2) 71 100 370 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  370 100 0 0 0 0 -0.5
*
FRO 100 80 POLY(1) VIB 0 6.4E-3
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1 = 1.5E-3)
HVOM 81 100 VOM 1
ROM 81 100 1
*
EFRO 380 100 POLY(2) 80 100 212 100 0 0 0 0 1
RFO 380 100 1
*
EV3 11 10 POLY(2) 81 100 380 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 380 100 0 0 0 0 -0.5
*
R1 6 5 0.5 RMOD 
R2 5 8 0.5 RMOD 
R3 10 9 0.5 RMOD 
R4 5 12 0.5 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
.ENDS
**********
*SRC=BHT910;BHT910;Sensors;Hall Effect;High Linearity, 0.8mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:       +Ic HALL CONTROL(BIAS) CURRENT INPUT
*              |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*              |   |  +Vh HALL OUTPUT 
*              |   |  | -Vh HALL OUTPUT
*              |   |  | |  +B MAGNETIC FIELD INPUT
*              |   |  | |  |   -B MAGNETIC FIELD INPUT
*              |   |  | |  |   |
.SUBCKT BHT910 2 100 17 4 31 101
*
FUO 100 41 VIST 5.E-4
RGUO 100 41 1 RMOD1 
.MODEL RMOD1 R (TC1 = 8.E-4)
EUO 9 5 41 100 1
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST  100 50 1 RMOD2 
.MODEL RMOD2 R (TC1 = -4.807E-3)
*
E1 3 11 50 100 4.E-3
E2 13 4 50 100 4.E-3
*
VIST 2 7 0
VOM 15 3 0
*
ENON1 203 100 POLY(1) 31 101 0 0 8.165E-9 6.546E-10
RNON1 203 100 1
*
FB 100 210 VIB 0.1
RB1 210 100 100K
Q1 212 210 211 QMOD
.MODEL QMOD NPN
RQ1 212 213 10K
VCQ1 213 100 1.0
VEQ1 211 100 -1.0
*
GNON 100 190 POLY(2) 203 100 212 100 0 0 0 0 -1
*
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -4.807E-3)
*
EMAGC 37 100 31 1 1.E3
CMAG 37 38 1.E-11
RMAG 38 100 0.8753
*
EXX1 301 100 POLY(2) 71 100 203 100 0 -5.E-4 0 0 10
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
FRI 100 70 POLY(1) VIB 0 6.E-3
RMAGI 100 70 1 RMOD 
HIST 71 100 VIST 1
RIST 71 100 1
*
EFRI 370 100 POLY(2) 70 100 212 100 0 0 0 0 1
RFI 370 100 1
*
EV1 7 6 POLY(2) 71 100 370 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  370 100 0 0 0 0 -0.5
*
FRO 100 80 POLY(1) VIB 0 6.E-3
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1 = 1.5E-3)
HVOM 81 100 VOM 1
ROM 81 100 1
*
EFRO 380 100 POLY(2) 80 100 212 100 0 0 0 0 1
RFO 380 100 1
*
EV3 11 10 POLY(2) 81 100 380 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 380 100 0 0 0 0 -0.5
*
R1 6 5 0.5 RMOD 
R2 5 8 0.5 RMOD 
R3 10 9 0.5 RMOD 
R4 5 12 0.5 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
.ENDS
**********
*SRC=FH301;FH301;Sensors;Hall Effect;Low Current, 10mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT FH301 2 100 17 4 31 101
*
FUO 100 41 VIST 0.4
RGUO 41 100 1 RMOD1 
.MODEL RMOD1 R (TC1 = 1.667E-3)
*
EUO 9 5 41 100 1
*
E1 3 11 50 100 0.5
E2 13 4 50 100 0.5
*
VIST 2 7 0
VOM 15 3 0
*
FNON 100 190 POLY(1) VIB -0.006 4.439E-4 0 -1.537E-6
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.001)
*
EMAGC 37 100 31 1 1.E3
CMAG  37 38 1.E-11
RMAG  38 100 35.8
*
EXX1 301 100 POLY(2) 71 100 190 100 0 0 0 0 66.66
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
HRI1 70 100 POLY(1) VIB 0 0 5.555E-2
RMAGI 70 100 1 RMOD 
* 
HIST 71 100 VIST 1
RIST 71 100 1
*
EV1 7 6 POLY(2) 71 100 70 100 0 0 0 0 0.5
EV2 8 100 POLY(2) 71 100  70 100 0 0 0 0 0.5
*
HRO1 80 100 POLY(1) VIB 0 0 5.555E-2
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1= 0.001)
*
HVOM 81 100 VOM 1
ROM 81 100 1
*
EV3 11 10 POLY(2) 81 100 80 100 0 0 0 0 0.5
EV4 12 13 POLY(2) 81 100 80 100 0 0 0 0 0.5
*
R1 6 5 30.0 RMOD 
R2 5 8 30.0 RMOD 
R3 10 9 65 RMOD 
R4 5 12 65 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST 50 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.001)
*
.ENDS
**********
*SRC=FH540;FH540;Sensors;Hall Effect;Low Current, 12mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT FH540 2 100 17 4 31 101
*
FUO 100 41 VIST 0.4
RGUO 41 100 1 RMOD1 
.MODEL RMOD1 R (TC1 = 1.667E-3)
*
EUO 9 5 41 100 1
*
E1 3 11 50 100 0.5
E2 13 4 50 100 0.5
*
VIST 2 7 0
VOM 15 3 0
*
FNON 100 190 POLY(1) VIB -0.006 1.834E-4 0 -4.469E-7
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.001)
*
EMAGC 37 100 31 1 1.E3
CMAG  37 38 1.E-11
RMAG  38 100 35.8
*
EXX1 301 100 POLY(2) 71 100 190 100 0 0 0 0 66.66
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
HRI1 70 100 POLY(1) VIB 0 0 5.1E-2
RMAGI 70 100 1 RMOD 
* 
HIST 71 100 VIST 1
RIST 71 100 1
*
EV1 7 6 POLY(2) 71 100 70 100 0 0 0 0 0.5
EV2 8 100 POLY(2) 71 100  70 100 0 0 0 0 0.5
*
HRO1 80 100 POLY(1) VIB 0 0 0.081
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1= 0.001)
*
HVOM 81 100 VOM 1
ROM 81 100 1
*
EV3 11 10 POLY(2) 81 100 80 100 0 0 0 0 0.5
EV4 12 13 POLY(2) 81 100 80 100 0 0 0 0 0.5
*
R1 6 5 30.0 RMOD 
R2 5 8 30.0 RMOD 
R3 10 9 65.0 RMOD 
R4 5 12 65.0 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST 50 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.001)
*
.ENDS
**********
*SRC=GH600;GH600;Sensors;Hall Effect;High Freq., 50mV/kG
*SYM=HALL
*HELP issyntax.hlp "Hall Effect Sensors"
* NODES:      +Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   -Ic HALL CONTROL(BIAS) CURRENT INPUT
*             |   |  +Vh HALL OUTPUT 
*             |   |  | -Vh HALL OUTPUT
*             |   |  | |  +B MAGNETIC FIELD INPUT
*             |   |  | |  |   -B MAGNETIC FIELD INPUT
*             |   |  | |  |   |
.SUBCKT GH600 2 100 17 4 31 101
*
* 2 AND 100 : CURRENT INPUTS,
* 17 AND 4 : THE OUTPUT HALL VOLTAGE TERMINALS, 
* 31 AND 101 : THE MAGNETIC FIELD INPUTS.
*
FUO 100 41 VIST 2.4
RGUO 100 41 1 RMOD1 
.MODEL RMOD1 R (TC1 = 2.5e-7)
EUO 9 5 41 100 1
*
GFST 100 50 POLY(2) 31 1 71 100 0 0 0 0 1
RST  100 50 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.0007)
*
E1 3 11 50 100 9.5
E2 13 4 50 100 9.5
*
VIST 2 7 0
VOM 15 3 0
*
ENON1 203 100 POLY(1) 31 101 0 -3.075E-4 0 9.25E-7
RNON1 203 100 1
*
FB 100 210 VIB 0.1
RB1 210 100 100K
Q1 212 210 211 QMOD
.MODEL QMOD NPN
RQ1 212 213 10K
VCQ1 213 100 1.0
VEQ1 211 100 -1.0
*
GNON 100 190 POLY(2) 203 100 212 100 0 0 0 0 -1
*
RG 190 100 1 RMOD2 
.MODEL RMOD2 R (TC1 = -0.0007)
*
EMAGC 37 100 31 1 1.E3
CMAG 37 38 1.E-11
RMAG 38 100 39.78
*
EXX1 301 100 POLY(2) 71 100 190 100 0 -2.4 0 0 200
EXX2 302 301 38 100 1
RXX1 302 100 1
*
ENON 17 15 302 100 1
*
FRI 100 70 POLY(1) VIB 0 0 -0.491
RMAGI 100 70 1 RMOD 
HIST 71 100 VIST 1
RIST 71 100 1
*
EV1 7 6 POLY(2) 71 100 70 100 0 0 0 0 -0.5
EV2 8 100 POLY(2) 71 100  70 100 0 0 0 0 -0.5
*
FRO 100 80 POLY(1) VIB 0 0 -0.56
RMAGO 80 100 1 RMOD 
.MODEL RMOD R (TC1 = 0.0015)
HVOM 81 100 VOM 1
ROM 81 100 1
*
EV3 11 10 POLY(2) 81 100 80 100 0 0 0 0 -0.5
EV4 12 13 POLY(2) 81 100 80 100 0 0 0 0 -0.5
*
R1 6 5 345 RMOD 
R2 5 8 345 RMOD 
R3 10 9 570 RMOD 
R4 5 12 570 RMOD 
*
RB 31 1 1
VIB 1 101 0
RDUM 101 100 1.E8
*
.ENDS
**********
